US06916819B2
To a suspension of N4-ethyl-6-isopropyl-pyridine-3,4-diamine hydrochloride (126 mg, 0.582 mmol) in CH2Cl2 (5 mL) at room temperature under N2 is added 2.0 M AlMe3 in toluene (0.35 mL, 0.728 mmol). The dark solution is then stirred at room temperature for 45 min. Next, a solution of (2-Thiazol-2-yl-imidazol-1-yl)-acetic acid methyl ester (65 mg, 0.291 mmol) in CH2Cl2 (2 mL) is added via cannula followed by a 1 mL rinse. The reaction mixture is stirred at reflux overnight. After cooling, it is treated with MeOH (˜0.5 mL) and then diluted with 0.5 N NaOH and additional CH2Cl2. The mixture is stirred vigorously for 15 min and then extracted thrice with CH2Cl2 containing some (˜5%) MeOH. The combined extracts are dried over K2CO3 and concentrated to 156 mg of a crude mixture of the desired 1-ethyl-6-isopropyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-imidazo[4,5-c]pyridine and N-(4-amino-6-isopropyl-pyridin-3-yl)-2-(2-thiazol-2-yl-imidazol-1-yl)-acetamide. This material is then dissolved in AcOH (6 mL), and the resulting solution is stirred at reflux for 5 h. After cooling, the reaction mixture is concentrated in vacuo. The residue is dissolved in CH2Cl2 and washed with 0.5 N NaOH. The aqueous layer is reextracted twice with CH2Cl2, and the combined extracts are dried over K2CO3 and concentrated. The crude material is purified by preparative TLC. Developing with 15:1 CHCl3 yields 1-ethyl-6-isopropyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-imidazo[4,5-c]pyridine. 1H NMR (CDCl3, 400 MHz) δ 9.01 (s, 1H), 7.83 (d, J=3.2 Hz, 1H), 7.38 (d, J=3.2 Hz, 1H), 7.15 (s, 1H), 7.12 (s, 1H), 7.09 (s, 1H), 6.32 (s, 2H), 4.21 (q, J=7.2 Hz, 2H), 3.17 (sept, J=6.8 Hz, 1H), 1.34 (d, J=6.8 Hz, 6H), 1.10 (t, J=7.2 Hz, 3H) ppm.

reactant | N4-ethyl-6-isopropyl-pyridine-3,4-diamine hydrochloride | 0.582 mmol, 126 mg | Cl.C(C)NC1=C(C=NC(=C1)C(C)C)N
reactant | AlMe3 | 2.0 M | C[Al](C)C
reactant | toluene | 0.728 mmol, 0.35 mL | C1(=CC=CC=C1)C | C7H8
reactant | (2-Thiazol-2-yl-imidazol-1-yl)-acetic acid methyl ester | 0.291 mmol, 65 mg | COC(CN1C(=NC=C1)C=1SC=CN1)=O | C9H9N3O2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-ethyl-6-isopropyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-imidazo[4,5-c]pyridine | C(C)N1C(=NC=2C=NC(=CC21)C(C)C)CN2C(=NC=C2)C=2SC=CN2 | C18H20N6S
